US06531502B1
A mixture of 3,5-diisopropyl-4-(2-morpholin-4-ylethoxy)-benzaldehyde (0.4 g), 5-bromo-2-oxindole (0.27 g) and pyrrolidine (0.5 ml) in ethanol (2 ml) was held in a sealed tube at 100° C. for 12 hours. The mixture was then added to 1N hydrochloric acid (100 ml) and the solids removed by filtration and washed with more water (50 ml). The solids were then dissolved in ethyl acetate (200 ml), the solution washed with 1N hydrochloric acid (75 ml) and brine (75 ml), dried with magnesium sulfate and concentrated. The crude solid was chromatographed (silica, 4:4:1 dichloromethane: hexanes: methanol) to give 80 mg (13%) of 5-bromo-3-[3,5-diisopropyl-4-(2-morpholin-4-ylethoxy)-benzylidene]-1,3-dihydroindol-2-one as a reddish-brown solid.

reactant | 3,5-diisopropyl-4-(2-morpholin-4-ylethoxy)-benzaldehyde | 0.4 g | C(C)(C)C=1C=C(C=O)C=C(C1OCCN1CCOCC1)C(C)C | C19H29NO3
reactant | 5-bromo-2-oxindole | 0.27 g | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | pyrrolidine | 0.5 ml | N1CCCC1 | C4H9N
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 5-bromo-3-[3,5-diisopropyl-4-(2-morpholin-4-ylethoxy)-benzylidene]-1,3-dihydroindol-2-one | 80 mg, 13% | BrC=1C=C2C(C(NC2=CC1)=O)=CC1=CC(=C(C(=C1)C(C)C)OCCN1CCOCC1)C(C)C | C27H33BrN2O3
